US04097522
A mixture of 10 g of 2-benzoyl-cyclohexanone, 5.8 g of pyruvic acid and 0.2 g of sodium dodecylsulfate is heated at 150° for 15 hours. After cooling, the raw reaction product is extracted with ethyl ether and the ether solution is washed with an aqueous solution of sodium bicarbonate, then with water and then dried. The residue which is obtained after removing the solvent (9 g) is chromatographed on an SiO2 column using as an eluent cyclohexane: ethyl ether 7:3. There are obtained 3.2 g of 7-benzoyl-3-methyl-2,4,5,6-tetrahydro-benzo[b]furan-2-one. After recrystallization from hexane-ethyl acetate m.p. is 79°-81°.

reactant | 2-benzoyl-cyclohexanone | 10 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | pyruvic acid | 5.8 g | C(C(=O)C)(=O)O | C3H4O3
catalyst | sodium dodecylsulfate | 0.2 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
product | 7-benzoyl-3-methyl-2,4,5,6-tetrahydro-benzo[b]furan-2-one | 3.2 g | C(C1=CC=CC=C1)(=O)C=1CCCC=2C1OC(C2C)=O | C16H14O3
